US09290487B2
Step 1 Synthesis of tert-butyl(5-bromo-2,3-difluorophenyl)(cyanomethyl)carbamate
A solution (3 mL) of tert-butyl(5-bromo-2,3-difluorophenyl)carbamate (182 mg, 0.591 mmol) in DMF was added to a suspension of 60% sodium hydride-oil dispersion (31.2 mg) in DMF, and stirred at room temperature for 15 minutes. To the reaction solution, bromoacetonitrile (0.041 mL, 0.591 mmol) was added, and stirred at room temperature for 4 hours. After quenched with a saturated aqueous ammonium chloride solution under ice-cooling, extraction was performed with ethyl acetate. The resulting organic phase was dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane/ethyl acetate) to thus obtain the title compound.

reactant | tert-butyl(5-bromo-2,3-difluorophenyl)carbamate | 0.591 mmol, 3 mL, 182 mg | C(C)(C)(C)OC(NC1=C(C(=CC(=C1)Br)F)F)=O | C11H12BrF2NO2
reactant | sodium hydride | [H-].[Na+]
reactant | bromoacetonitrile | 0.591 mmol, 0.041 mL | BrCC#N | C2H2BrN
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl(5-bromo-2,3-difluorophenyl)(cyanomethyl)carbamate | yield: 69% | C(C)(C)(C)OC(N(CC#N)C1=C(C(=CC(=C1)Br)F)F)=O | C13H13BrF2N2O2
